### PR TITLE
added general lemmas for strong normalization of untyped lambda terms…

### PR DESCRIPTION
**Pull request by WegmannDavid**
… and a partially complete proof for strong norm of stlc

### CODE REVIEW

**Comment by intgrah** [comment]
sn_app is relatively straight forward

```lean
lemma sn_app (t s : Term Var) :
  SN t →
  SN s →
  (∀ {t' s' : Term Var}, t ↠βᶠ t'.abs → s ↠βᶠ s' → SN (t' ^ s')) →
  SN (t.app s) := by
  intro h_sn_t h_sn_s hβ
  induction h_sn_t generalizing s with | sn t ht ih_t =>
  induction h_sn_s with | sn s hs ih_s =>
  constructor
  intro u hstep
  cases hstep with
  | beta _ _ => apply hβ <;> rfl
  | appL _ h_s_red =>
    apply ih_s _ h_s_red
    intro t' s'' hstep1 hstep2
    exact hβ hstep1 (Relation.ReflTransGen.head h_s_red hstep2)
  | appR _ h_t_red =>
    apply ih_t _ h_t_red _ (SN.sn s hs)
    intro t' s' hstep1 hstep2
    exact hβ (Relation.ReflTransGen.head h_t_red hstep1) hstep2
    ```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean [hunk 1]
```diff
@@ -0,0 +1,251 @@
...
+      rw[Term.subst_abs]
+      rw[ih H]
+  · case app l r ih_l ih_r =>
+      rw[Term.openRec_app, Term.openRec_app]
+      rw[Term.subst_app]
+      simp only [Term.fv, Finset.mem_union, not_or] at H
+      rw[ih_l H.1]
+      rw[ih_r H.2]
+
+lemma swap_subst_fresh (M N P : Term Var) (x y : Var) :
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean]: Is this meant to have some extra hypothesis? It is not true in general as is.

Comment (WegmannDavid) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean]: Yes, this will require another hypothesis, but I was holding that off until later, I am not yet sure exactly how this hypothesis is best formulated. Maybe I should have put in some blank.
